US09353096B2
(S)-1,1,1-Trifluoro-3-((R)-2-(4-fluoro-3-(trifluoromethyl)phenyl)morpholino)propan-2-ol (427 mg, 1.18 mmol) was mixed with 1-chloro-4-isocyanatobenzene (180 mg, 1.17 mmol) in toluene (5 mL). The mixture was stirred at 90° C. for 2 h. TLC indicated still significant amount of the starting material. So a second batch of 1-chloro-4-isocyanatobenzene (180 mg, 1.17 mmol) was added and the mixture was further stirred at 95° C. for 2 h. TLC indicated still significant amount of starting material. A second batch of isocyanate was added and the mixture was stirred at 90° C. for 2 h. The mixture was concentrated and the residue was extracted with ethyl acetate and water, washed with sodium bicarbonate solution and brine, dried and concentrated. The residue was purified through ISCO flash column chromatography (ethyl acetate in hexanes 0% to 40% gradient in 16 min). The desired fraction was concentrated to give (4-chlorophenyl)-carbamic acid (S)-2,2,2-trifluoro-1-[(R)-2-(4-fluoro-3-trifluoromethyl-phenyl)-morpholin-4-ylmethyl]-ethyl ester a colorless oil, which was dissolved in ether and 1N HCl in ether (1 mL) was added. Solvent was evaporated and the residue was dissolved in ether. Hexane was added and solvents were evaporated to give a white solid 241 mg. LC/MS indicated 13% des-fluoro ((M+H)+=497 m/e) and 87% desired compound ((M+H)+=515 m/e).

reactant | (S)-1,1,1-Trifluoro-3-((R)-2-(4-fluoro-3-(trifluoromethyl)phenyl)morpholino)propan-2-ol | 1.18 mmol, 427 mg | FC([C@H](CN1C[C@H](OCC1)C1=CC(=C(C=C1)F)C(F)(F)F)O)(F)F | C14H14F7NO2
reactant | 1-chloro-4-isocyanatobenzene | 1.17 mmol, 180 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 1-chloro-4-isocyanatobenzene | 1.17 mmol, 180 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | isocyanate | [N-]=C=O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (4-chlorophenyl)-carbamic acid (S)-2,2,2-trifluoro-1-[(R)-2-(4-fluoro-3-trifluoromethyl-phenyl)-morpholin-4-ylmethyl]-ethyl ester | FC([C@H](CN1C[C@H](OCC1)C1=CC(=C(C=C1)F)C(F)(F)F)OC(NC1=CC=C(C=C1)Cl)=O)(F)F | C21H18ClF7N2O3
